US05399292
A mixture of 0.8 g of 1-(trans-4-propylcyclohexyl)-3,5-difluoro-4-iodobenzene, 0.379 g of trans-1-ethynyl-4-propylcyclohexane, 0.023 g of tetrakis(triphenylphosphine)palladium(0) and 0.009 g of copper(I) iodide in 20 ml of triethylamine is stirred at 105° C. for 17 hrs. Thereafter, the mixture is cooled, partitioned between ether and water, the combined organic phases are dried over magnesium sulphate, filtered and the filtrate is evaporated on a rotary evaporator. Chromatography on 140 g of silica gel with hexane and three-fold crystallization from methanol, hexane and again methanol gives 0.376 g of 1-(trans-4-propylcyclohexylethynyl)-2,6-difluoro-4-(trans-4-propylcyclohexyl)benzene, m.p. (C/N) 120.2° C., cl.p. (N/I) 171.4° C.

reactant | 1-(trans-4-propylcyclohexyl)-3,5-difluoro-4-iodobenzene | 0.8 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)I)F | C15H19F2I
reactant | trans-1-ethynyl-4-propylcyclohexane | 0.379 g | C(#C)[C@@H]1CC[C@H](CC1)CCC | C11H18
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.023 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.009 g | [Cu]I
product | 1-(trans-4-propylcyclohexylethynyl)-2,6-difluoro-4-(trans-4-propylcyclohexyl)benzene | 0.376 g | C(CC)[C@@H]1CC[C@H](CC1)C#CC1=C(C=C(C=C1F)[C@@H]1CC[C@H](CC1)CCC)F | C26H36F2
